US05359058
Preparation of 4-carboxy-7-isopropylideneammonio-3-methyl-1-oxo-3-cephem bromide from 7-amino-3-methyl-3-cephem-1-oxo-4-carboxylic acid
With stirring 0.4 ml of a hydrogen bromide solution (33%) in acetic acid was added to 1 g (2.1 mmoles) of 7-amino-3-methyl-1-oxo-3-cephem-4-carboxylic acid at 0° C. After adding gradually 5 ml of acetone a crystalline precipitate was obtained, which was filtered off, washed with acetone and dried giving 0.60 g (79%) of the title product.

reactant | hydrogen bromide | 0.4 ml | Br | BrH
reactant | 7-amino-3-methyl-1-oxo-3-cephem-4-carboxylic acid | 2.1 mmoles, 1 g | NC1[C@@H]2N(C(=C(CS2=O)C)C(=O)O)C1=O | C8H10N2O4S
reactant | acetone | 5 ml | CC(=O)C | C3H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-carboxy-7-isopropylideneammonio-3-methyl-1-oxo-3-cephem bromide | 0.60 g, 79% | [Br-].C(=O)(O)C1=C(CS([C@H]2N1C(C2[NH+]=C(C)C)=O)=O)C | InChI=1S/C11H14N2O4S.BrH/c1-5(2)12-7-9(14)13-8(11(15)16)6(3)4-18(17)10(7)13;/h7,10H,4H2,1-3H3,(H,15,16);1H/t7?,10-,18?;/m1./s1
